US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-cyclopentyl-ethyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-cyclopentylethanol according to the procedure of Example 30 as an amber gum (HCl salt); 1H NMR (CDCl3) δ 1.32 (d, J=6.3 Hz, 3H), 1.60 (m, 20H), 2.80 (m, 1H), 2.90 (m, 2H), 3.15 (m, 1H), 3.20 (m, 1H), 3.48 (m, 2H), 4.30 (t, J=6.9 Hz, 4H), 5.50 (bd, 1 H), 6.80 (m, 3H), 7.25 (m, 2H), 7.43 (s, 1H), 8.70 (bs, 1H), 10.10 (bs, 1H); IR (KBr): 1765 cm-1 (C=O); MS (CI) m/z 614 (MH+); [α]D25 -24° (c, 1.0, CHCl3). Anal. Calcd. for C34H44ClNO7 ·HCl: C, 62.77; H, 6.82; N, 2.15; Cl, 10.90. Found: C, 64.04; H, 8.24; N, 1.62; Cl, 8.99.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-cyclopentylethanol | C1(CCCC1)CCO | C7H14O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-cyclopentyl-ethyl) ester | C1(CCCC1)CCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCC2CCCC2 | C34H44ClNO7
